US07192968B2
Lithium 4-(morpholinomethyl)thiazole-2-carboxylate
4-(Morpholinomethyl)thiazole (640 mg) was dissolved in diethyl ether (5 ml) in an argon atmosphere, and n-butyllithium (1.54N hexane solution, 2.50 ml) was added dropwise at −78° C. The reaction mixture was stirred for 10 minutes under ice cooling, and cooled again to −78° C. After blowing carbon dioxide into the reaction mixture for 20 minutes, it was heated to room temperature. The reaction mixture was concentrated under reduced pressure to obtain the title compound (873 mg) as crude yellow powder.

reactant | 4-(Morpholinomethyl)thiazole | 640 mg | O1CCN(CC1)CC=1N=CSC1 | C8H12N2OS
reactant | carbon dioxide | C(=O)=O | CO2
reactant | n-butyllithium | 1.54N, 2.50 ml | C(CCC)[Li]
solvent | diethyl ether | 5 ml | C(C)OCC | C4H10O
product | Lithium 4-(morpholinomethyl)thiazole-2-carboxylate | 873 mg | O1CCN(CC1)CC=1N=C(SC1)C(=O)[O-].[Li+] | InChI=1S/C9H12N2O3S.Li/c12-9(13)8-10-7(6-15-8)5-11-1-3-14-4-2-11;/h6H,1-5H2,(H,12,13);/q;+1/p-1
